US07544703B2
2-[2-Bis(acetoxyacetyl)aminopyridin-4-ylmethylthio]-N-(4-trifluoromethoxyphenyl)pyridine-3-carboxamide (Compound No. 13-1)
2-(2-Aminopyridin-4-ylmethylthio)-N-(4-trifluoromethoxyphenyl)pyridine-3-carboxamide (Compound No. 3-11, 800 mg, 1.9 mmol) was dissolved in pyridine (10 mL), and acetoxyacetyl chloride (0.66 mL, 6.1 mmol) was added thereto under ice-cooling, and the mixture was stirred for 18 hours at room temperature. The mixture was diluted with ethyl acetate (100 mL), and the whole was washed with saturated aqueous sodium hydrogen carbonate solution (100 mL) and 1 N hydrochloric acid (50 mL) twice successively. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution (100 mL) again and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The resulting solid was recrystallized from ethyl acetate-hexane to give 300 mg of the target compound as a colorless solid. (Yield 30%)

reactant | 2-(2-Aminopyridin-4-ylmethylthio)-N-(4-trifluoromethoxyphenyl)pyridine-3-carboxamide | NC1=NC=CC(=C1)CSC1=NC=CC=C1C(=O)NC1=CC=C(C=C1)OC(F)(F)F | C19H15F3N4O2S
reactant | acetoxyacetyl chloride | 6.1 mmol, 0.66 mL | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-[2-Bis(acetoxyacetyl)aminopyridin-4-ylmethylthio]-N-(4-trifluoromethoxyphenyl)pyridine-3-carboxamide | 300 mg, Yield 30% | C(C)(=O)OCC(=O)N(C1=NC=CC(=C1)CSC1=NC=CC=C1C(=O)NC1=CC=C(C=C1)OC(F)(F)F)C(COC(C)=O)=O | C27H23F3N4O8S
